US09108952B2
To a solution of N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine (1.00 g, 4.60 mmol) in acetonitrile (2 mL) was added 1-chloropyrrolidine-2,5-dione (645 mg, 4.83 mmol) and the mixture stirred at 0° C. for 1 h. The mixture was filtered and the filtrate was treated with excess HCl (4M in dioxane) to give 4-chloro-N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine as a brown solid: mp 56-60° C.

reactant | N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine | 4.60 mmol, 1.00 g | C1(CC1)NC1=CN=C(S1)C=1C=NC=CC1 | C11H11N3S
reactant | 1-chloropyrrolidine-2,5-dione | 4.83 mmol, 645 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-chloro-N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine | ClC=1N=C(SC1NC1CC1)C=1C=NC=CC1 | C11H10ClN3S
